US06518267B1
c) Benzyl 5-Carboxybenzofuran-2-carboxylate
To a solution of benzyl 5-formylbenzofuran-2-carboxylate (0.380 g, 0.1.36 mmol) in THF (5 mL) and t-butanol (1 mL) was added slowly a solution of sodium chlorite (0.245 g 2.71 mmol) and sulfamic acid (0.277 g, 2.86 mmol) in water (2 mL). After stirring at room temperature for 3 h, the solution was partitioned between ethyl acetate and water. The organic layer was washed successively with water, saturated aqueous sodium bicarbonate, and brine then collected, dried (MgSO4), filtered and concentrated to yield the title compound as an off-white solid (0.272 g, 68%). 1 H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 8.23 (d, 1H), 7.67 (m, 2H), 7.49 (m, 2H), 7.41 (m, 3H), 5.46 (s, 2H).

reactant | benzyl 5-formylbenzofuran-2-carboxylate | 0.380 g | C(=O)C=1C=CC2=C(C=C(O2)C(=O)OCC2=CC=CC=C2)C1 | C17H12O4
reactant | sodium chlorite | 2.71 mmol, 0.245 g | Cl(=O)[O-].[Na+]
reactant | sulfamic acid | 2.86 mmol, 0.277 g | S(N)(O)(=O)=O | H3NO3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | t-butanol | 1 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2 mL | O | H2O
product | Benzyl 5-Carboxybenzofuran-2-carboxylate | 0.272 g, 68% | C(=O)(O)C=1C=CC2=C(C=C(O2)C(=O)OCC2=CC=CC=C2)C1 | C17H12O5
